US08735417B2
A mixture of 2,4-dichloropyrimidine (4.4 g, 29.5 mmol), potassium vinyltrifluoroborate (4.58 g, 32.5 mmol), PdCl2 (dppf)-CH2Cl2 (1.21 g, 1.48 mmol) and triethylamine (4.12 mL, 29.5 mmol) in nPrOH (148 mL) was purged with nitrogen for 15 min, heated to 100° C. for 5 h, and cooled to room temperature. The mixture was treated with water and extracted with EtOAc (×3). The combined organics were washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromotography to afford 2-chloro-4-ethenylpyrimidine as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 8.56 (d, J=5.1, 1H), 7.21 (d, J=5.1, 1H), 6.70 (dd, J=10.6, 17.4, 1H), 6.57-6.51 (m, 1H), 5.79 (dd, J=0.8, 10.6, 1H).

reactant | 2,4-dichloropyrimidine | 29.5 mmol, 4.4 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium vinyltrifluoroborate | 32.5 mmol, 4.58 g | C(=C)[B-](F)(F)F.[K+]
reactant | triethylamine | 29.5 mmol, 4.12 mL | C(C)N(CC)CC | C6H15N
solvent | nPrOH | 148 mL | C(CC)O | C3H8O
product | 2-chloro-4-ethenylpyrimidine | ClC1=NC=CC(=N1)C=C | C6H5ClN2
